US07056349B2
Synthesis of 3-methyl-1,4-benzoquinone-4-(O-acetyloxime)
One drop of pyridine was added to a mixture of 0.5 g (3.6 mmol) of 3-methyl-1,4-benzoquinone-4-oxime and 1 mL of acetic anhydride and the resulting mixture was heated to 70° C. At the end of the reaction, the reaction mixture was poured on 10 mL of water/ice. The precipitated product was filtered off, washed with water and then dried.

reactant | 3-methyl-1,4-benzoquinone-4-oxime | 3.6 mmol, 0.5 g | CC1=CC(C=CC1=NO)=O | C7H7NO2
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridine | One drop | N1=CC=CC=C1 | C5H5N
product | 3-methyl-1,4-benzoquinone-4-(O-acetyloxime) | C(C)(=O)ON=C1C(=CC(C=C1)=O)C | C9H9NO3
